US04673746
To a solution of 24 g of 3-chloro-2-hydroxy-4-methoxy-2',3'-difluorobenzophenone in 160 ml pyridine, 22 g of hydroxylamine HCl is added. The mixture is refluxed for 2 hours and the pyridine evaporated in vacuo. The residue is partitioned between ethyl acetate and 5% HCl. The ethyl acetate extract is washed with water, dried over Na2SO4 and evaporated to give a pale yellow solid which consists of two isomers. The solid is melted at 205° C. for approximately 13 minutes. The residue is dissolved in hot ethylacetate and then evaporated to dryness giving E-3-chloro-2',3'-difluoro-2-hydroxy-4-methoxybenzophenone oxime, mp 198°-199° C.

reactant | 3-chloro-2-hydroxy-4-methoxy-2',3'-difluorobenzophenone | 24 g | ClC=1C(=C(C(=O)C2=C(C(=CC=C2)F)F)C=CC1OC)O | C14H9ClF2O3
reactant | hydroxylamine HCl | 22 g | Cl.NO
solvent | pyridine | 160 ml | N1=CC=CC=C1 | C5H5N
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | E-3-chloro-2',3'-difluoro-2-hydroxy-4-methoxybenzophenone oxime | ClC=1C(=C(\C(\C2=C(C(=CC=C2)F)F)=N/O)C=CC1OC)O | C14H10ClF2NO3
